US07858640B2
Trifluoromethanesulfonic Acid 8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-yl Ester
A mixture of 8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-ol (1.3 g), N-phenyltrifluoromethanesulfonimide (1.7 g), potassium carbonate (1.6 g) and tetrahydrofuran (10 mL) was heated by microwave irradiation at 120° C. for 20 minutes. The mixture was filtered and the filtrate concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel, eluting with a mixture of pentane and dichloromethane (9:1 to 0:1 by volume) gave title compound, 0.27 g.

reactant | 8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-ol | 1.3 g | ClC1=CC=C(C=2C(=C(C(=NC12)C)SC1=CC=C(C=C1)Cl)C)O | C17H13Cl2NOS
reactant | N-phenyltrifluoromethanesulfonimide | 1.7 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Trifluoromethanesulfonic Acid 8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-yl Ester | ClC=1C=CC(=C2C(=C(C(=NC12)C)SC1=CC=C(C=C1)Cl)C)OS(=O)(=O)C(F)(F)F | C18H12Cl2F3NO3S2
